US04788206
The compound was prepared according to the procedure described in Example 84. The following reagents were used: 3,3'-difluorobenzophenone (19.8 g), diisopropylamine (32.2 mL), 1.55M n-butyl lithium in hexane (148 mL), acetaldehyde N-tertbutylimine (14.75 mL), diethyl chlorophosphonate (16.6 mL) and tetrahydrofurane (200 mL). The usual work up gave 23 g of material which was crystallized from hexane to give 17.4 g of 3,3-bis(3-fluorophenyl)-2-propenal, mp 51°-53° C. A small portion was recrystallized from the same solvent to provide the analytical sample, mp 52°-54° C.

reactant | 3,3'-difluorobenzophenone | 19.8 g | FC=1C=C(C(=O)C2=CC(=CC=C2)F)C=CC1 | C13H8F2O
reactant | diisopropylamine | 32.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.55M | C(CCC)[Li]
reactant | diethyl chlorophosphonate | 16.6 mL | ClP(OCC)(OCC)=O | C4H10ClO3P
solvent | hexane | 148 mL | CCCCCC | C6H14
solvent | acetaldehyde N-tertbutylimine | 14.75 mL | C(C)(C)(C)N=CC | C6H13N
solvent | tetrahydrofurane | 200 mL | O1CCCC1 | C4H8O
product | 3,3-bis(3-fluorophenyl)-2-propenal | 17.4 g | FC=1C=C(C=CC1)C(=CC=O)C1=CC(=CC=C1)F | C15H10F2O
